US06242443B1
7-tert-Butyl-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 2-amino-5-tert-butylbenzenesulfonamide and isopropyl isothiocyanate, and following a procedure analogous to the one described in Example 4a, N-(2-amino-5-tert-butylbenzenesulfonyl)-N′-isopropylthiourea was prepared; m.p. 128-130° C. Subsequent ring closure with phosgene by a procedure analogous to the one described in Example 4b gave the title compound; m.p. 290-293° C.

reactant | 2-amino-5-tert-butylbenzenesulfonamide | NC1=C(C=C(C=C1)C(C)(C)C)S(=O)(=O)N | C10H16N2O2S
reactant | isopropyl isothiocyanate | C(C)(C)N=C=S | C4H7NS
reactant | N-(2-amino-5-tert-butylbenzenesulfonyl)-N′-isopropylthiourea | NC1=C(C=C(C=C1)C(C)(C)C)S(=O)(=O)NC(=S)NC(C)C | C14H23N3O2S2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 7-tert-Butyl-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | C(C)(C)(C)C1=CC2=C(NC(=NS2(=O)=O)NC(C)C)C=C1 | C14H21N3O2S
